US07153957B2
Preparation of 5-Methyl-2-phenyl-1,3,2-dioxaborinane-5-carboxylic acid, [A]
To a suspension of 2,2-bis(hydroxymethyl)propionic acid (131 g, 0.98 mole) in tetrahydrofuran (500 ml) was added a solution of phenylboronic acid (122 g, 1.0 mole) in tetrahydrofuran (500 ml). The mixture was stirred for 3 h and toluene (1.0 L) was added. Water was removed by azeotropic distillation with toluene. Heptanes (500 ml) was added to the precipitated product, heated to reflux and cooled. The mixture was filtered and washed with heptanes (2×300 ml). The solids were dried under vacuum at 70–75° C. until constant weight to give 94% yield. 1H NMR: δ (DMSO-d6) 7.65 (d, 2H, Ar), 7.40 (m, 3H, Ar), 4.35 (d, 2H, CH2), 3.92 (d, 2H, CH2), 1.17 (s, 3H, CH3)

reactant | 2,2-bis(hydroxymethyl)propionic acid | 0.98 mole, 131 g | OCC(C(=O)O)(C)CO | C5H10O4
reactant | phenylboronic acid | 1.0 mole, 122 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | toluene | 1.0 L | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 5-Methyl-2-phenyl-1,3,2-dioxaborinane-5-carboxylic acid | 94% yield | CC1(COB(OC1)C1=CC=CC=C1)C(=O)O | C11H13BO4
